US07893069B2
A solution of 380 mg (3.8 mmol) 2-amino-thiazole, 749 mg (3.8 mmol) 5-(pyridine-2-yl-ethynyl)-furan-2-carbaldehyde, 378 mg (3.8 mmol) tert.butyl-isonitril and 73 μl of a 70% aq. perchloric acid in chloroform (2 ml) was heated to 45° C. while being stirred for 16 h. Dilution with DCM was subsequently performed and a 1 molar aq. Na2CO3 sol. was added. After 10 min of stirring at RT, the phases were separated. The aqueous phase was extracted with DCM. The collected organic phases were dried over Na2SO4, filtered and concentrated in a vacuum. 472 mg (1.3 mmol, 34%) N-tert-butyl-6-(5-(pyridine-2-ylethynyl)furan-2-yl)imidazo[2,1-b]thiazole-5-amine was obtained by CC (AE) with the residue.

reactant | 2-amino-thiazole | 3.8 mmol, 380 mg | NC=1SC=CN1 | C3H4N2S
reactant | 5-(pyridine-2-yl-ethynyl)-furan-2-carbaldehyde | 3.8 mmol, 749 mg | N1=C(C=CC=C1)C#CC1=CC=C(O1)C=O | C12H7NO2
reactant | tert.butyl-isonitril | 3.8 mmol, 378 mg | C(C)(C)(C)[N+]#[C-] | C5H9N
reactant | perchloric acid | Cl(=O)(=O)(=O)O | ClHO4
reactant | Na2CO3 | 1 molar | C(=O)([O-])[O-].[Na+].[Na+]
solvent | chloroform | 2 ml | C(Cl)(Cl)Cl | CHCl3
solvent | DCM | C(Cl)Cl | CH2Cl2
product | N-tert-butyl-6-(5-(pyridine-2-ylethynyl)furan-2-yl)imidazo[2,1-b]thiazole-5-amine | 1.3 mmol, 472 mg, 34% | C(C)(C)(C)NC1=C(N=C2SC=CN21)C=2OC(=CC2)C#CC2=NC=CC=C2 | C20H18N4OS
